US06903089B1
VII a) (2-Oxo-1,3-thiazolidin-3-yl)acetonitrile
Preparation took place in analogy to Example IV a from bromoacetonitrile and 2-thiazolidinone. The substance was employed as DMF-containing crude product in the next reaction.

reactant | bromoacetonitrile | BrCC#N | C2H2BrN
reactant | 2-thiazolidinone | S1C(NCC1)=O | C3H5NOS
solvent | DMF | CN(C)C=O | C3H7NO
product | (2-Oxo-1,3-thiazolidin-3-yl)acetonitrile | O=C1SCCN1CC#N | C5H6N2OS
